US07173022B2
N-(4-Fluoro-2-(1H-1,2,4-triazol-1-yl)benzyl)-3-hydroxy-9,9-dimethyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-2-carboxamide.
Intermediate 13, N-(4-fluoro-2-(1H-1,2,4-triazol-1-yl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-2-carboxamide was treated with trifluoroacetic acid, according to Method D to provide the title compound. 1H NMR (300 MHz, CDCl3) δ ppm: 11.66 (1H, br), 8.88 (1H, t, J=6.2 Hz), 8.44 (1H, s), 8.18 (1H, s), 7.67 (1H, dd, J=8.4, 5.9 Hz), 7.18 (1H, dt, J=8.2, 2.6 Hz), 7.09 (1H, dd, J=8.4, 2.6 Hz), 4.43 (2H, d, J=7.0 Hz), 3.95 (2H, t, J=6.4 Hz), 1.88–2.00 (2H, m), 1.69–1.76 (2H, m), 1.37 (6H, s); HRMS (ESI) calcd for C20H22FN6O3 (M+H) 413.1737, found 413.1719.

reactant | N-(4-fluoro-2-(1H-1,2,4-triazol-1-yl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-2-carboxamide | FC1=CC(=C(CNC(=O)C=2N=C3N(C(C2OCC2=CC=CC=C2)=O)CCCC3(C)C)C=C1)N1N=CN=C1 | C27H27FN6O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | N-(4-Fluoro-2-(1H-1,2,4-triazol-1-yl)benzyl)-3-hydroxy-9,9-dimethyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-2-carboxamide | FC1=CC(=C(CNC(=O)C=2N=C3N(C(C2O)=O)CCCC3(C)C)C=C1)N1N=CN=C1 | C20H21FN6O3
